US09056859B2
To a solution of 4-bromo-2,3-dihydro-1H-inden-1-one (1.00 g, 4.74 mmol) in 5 mL of DMF was added Zn(CN)2 (556 mg, 4.74 mmol) and Pd(PPh3)4 (77 mg, 0.14 mmol), and the reaction mixture was stirred under microwave irradiation for 1 h at 165° C. The solvent was removed in vacuum to afford the crude compound, which was purified via column chromatography to afford 1-oxo-2,3-dihydro-1H-indene-4-carbonitrile.

reactant | 4-bromo-2,3-dihydro-1H-inden-1-one | 4.74 mmol, 1.00 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 4.74 mmol, 556 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.14 mmol, 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-oxo-2,3-dihydro-1H-indene-4-carbonitrile | O=C1CCC=2C(=CC=CC12)C#N | C10H7NO
